*******************************************************************************
*****************************************************************
* NXP PSMN7R0_30YL
*
* Polarity N-Channel
* Ratings 30V/5.00E-03OHMS/10A
*
* Date Created Fri Oct 31 05:35:21 2008
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R0_30YL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 600000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00335915001524776 TC=0.00906687172070117,-1.5724828644767e-05
RBD 9 4 0.000934441727785314 TC=0.00906687172070117,-1.5724828644767e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 1.15e-09
RG 1 2 0.506633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1340
+ -5	1330
+ -4	1330
+ -3	1320
+ -2	1209
+ -1	874
+ -0.5	639
+ -0.2	528
+ -0.1	493
+ 0	469.5
+ 0.1	433
+ 0.2	392
+ 0.5	308
+ 1	248
+ 2	210
+ 5	173
+ 10	148.4
+ 20	127.7
+ 30	122.3


.MODEL MINT NMOS(Vto=2.12 Kp=120.41 Nfs=390000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=2.30333330212086e-13
+ N=1 M=0.55 VJ=0.5 Fc=0.5 Cjo=7.5e-10 Tt=1.85e-08)

.ENDS










*******************************************************************************
